US09340538B2
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(((R)-2-((isobutyryloxy)methyl)morpholino)methyl)-2-(1H-1,2,4-triazol-3-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(((R)-2-(hydroxymethyl)morpholino)methyl)-2-(1H-1,2,4-triazol-3-yl)-1,4-dihydropyrimidine-5-carboxylate (2 g, 3.8 mmol) was reacted with isobutyric acid (0.44 g, 5 mmol) according to the procedure as described in Example 49 to give the title compound as yellow oil (0.79 g, 35%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(((R)-2-(hydroxymethyl)morpholino)methyl)-2-(1H-1,2,4-triazol-3-yl)-1,4-dihydropyrimidine-5-carboxylate | 3.8 mmol, 2 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CN1C[C@@H](OCC1)CO)C1=NNC=N1 | C21H24BrFN6O4
reactant | isobutyric acid | 5 mmol, 0.44 g | C(C(C)C)(=O)O | C4H8O2
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(((R)-2-((isobutyryloxy)methyl)morpholino)methyl)-2-(1H-1,2,4-triazol-3-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.79 g, 35% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CN1C[C@@H](OCC1)COC(C(C)C)=O)C1=NNC=N1 | C25H30BrFN6O5
